US09403818B2
Preparation of methyl 8-(4-(methylamino)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-(methylamino)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (74 mg, 0.25 mmol) and N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline (71 mg, 0.31 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 94:6) afforded the title compound as a yellow solid (81 mg, 81%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.25 mmol, 74 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline | 0.31 mmol, 71 mg | CNC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
product | methyl 8-(4-(methylamino)-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 81 mg, 81% | CNC1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C22H22N2O3
